US05599816
472a. 3-(BOC-aminomethyl)-1-diphenylmethyl-azetidine
A sample (0.6 g) of 3-aminomethyl-1-diphenylmethyl-azetidine (prepared according to Anderson and Lok, J. Org. Chem., 37:3393-5 (1972)) was treated with di-t-butyl dicarbonate in methylene chloride and triethylamine for 2 hours, and the title compound (450 mg) was obtained after chromatography on silica gel.

reactant | 3-aminomethyl-1-diphenylmethyl-azetidine | 0.6 g | NCC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C17H20N2
reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(BOC-aminomethyl)-1-diphenylmethyl-azetidine | 450 mg | C(=O)(OC(C)(C)C)C(C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)N | C22H28N2O2
